* source LAB1_PROJECT
R_R1         N09237 N09208  12k TC=0,0 
R_R2         N09222 N09208  18k TC=0,0 
R_R3         0 N09237  4k TC=0,0 
R_R4         0 N09222  9k TC=0,0 
R_R5         N09222 N09237  6k TC=0,0 
V_V1         N09208 0 12Vdc
